US06331640B1
A solution of tetra-n-butylammonium fluoride in tetrahydrofuran (1 M; 1.78 mL, 1.78 mmol) was added in two portions to a solution of N-[2-chloro-4-[[[[3-[[(1,1-dimethylethyl) dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester (1.03 g, 1.62 mmol) in dry tetrahydrofuran (20 mL). The solution was stirred at room temperature for 30 min, then diluted with ethyl acetate (100 mL) and washed with water (25 mL) and brine (25 mL). The solution was dried (MgSO4), filtered, evaporated, held under high vacuum for 2.5 h, and then chromatographed (60-70% ethyl acetate/petroleum ether) to give N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester (0.82 g, 97%) as a white foam.

reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[2-chloro-4-[[[[3-[[(1,1-dimethylethyl) dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester | 1.62 mmol, 1.03 g | ClC1=C(C(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C | C31H44ClN3O7Si
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.78 mmol, 1 M, 1.78 mL | O1CCCC1 | C4H8O
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester | 0.82 g, 97% | ClC1=C(C(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C25H30ClN3O7
